US04711884
A mixture of trifluoroacetic acid (8 ml.) and anisole (0.4 ml.) is cooled in an ice-water bath under nitrogen and treated with (5R)-5[[1-(ethoxycarbonyl)-3-phenylpropyl]amino]dihydro-4-oxo-2-phenyl-2H-1,3-thiazine-3(4H)-acetic acid, 2-(trimethylsilyl)ethyl ester (B-slow isomer) (400 mg., 0.72 mmole) dissolved in dry methylene chloride (4 ml.). The cooling bath is removed and the reaction is stirred at ambient temperature for 3 hours, then concentrated in vacuo and azeotroped with toluene. The crude product (440 mg.) is chromatographed on 150 ml. of HP-20 eluted with a gradient from 400 ml. of water:acetonitrile (5:4) to 400 ml. of 100% acetonitrile. The product containing fractions are pooled, evaporated, then precipitated from ethanol (10 ml.) by the addition of water (300 ml.). By this method 171 mg. of (5R)-5-[[1-(ethoxycarbonyl)-3-phenylpropyl]amino]dihydro-4-oxo-2-phenyl-2H1,3-thiazine-3(4H)-acetic acid (B-slow isomer) are obtained; m.p. 130°-135°; [α]D =-36.1° (c=1, methanol). TLC (ethyl acetate:pyridine:acetic acid: water; 100:20:6:11) spot at Rf =0.79.

reactant | trifluoroacetic acid | 8 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | anisole | 0.4 ml | C1(=CC=CC=C1)OC | C7H8O
reactant | (5R)-5[[1-(ethoxycarbonyl)-3-phenylpropyl]amino]dihydro-4-oxo-2-phenyl-2H-1,3-thiazine-3(4H)-acetic acid, 2-(trimethylsilyl)ethyl ester | 0.72 mmole, 400 mg | C(C)OC(=O)C(CCC1=CC=CC=C1)N[C@@H]1C(N(C(SC1)C1=CC=CC=C1)CC(=O)OCC[Si](C)(C)C)=O | C29H40N2O5SSi
solvent | methylene chloride | 4 ml | C(Cl)Cl | CH2Cl2
product | (5R)-5-[[1-(ethoxycarbonyl)-3-phenylpropyl]amino]dihydro-4-oxo-2-phenyl-2H1,3-thiazine-3(4H)-acetic acid | C(C)OC(=O)C(CCC1=CC=CC=C1)N[C@@H]1C(N(C(SC1)C1=CC=CC=C1)CC(=O)O)=O | C24H28N2O5S
